### PR TITLE
Add auxiliary lemma

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: BET/Birkhoff.lean [hunk 1]
```diff
@@ -173,7 +173,7 @@ open Finset in
 theorem comp_sup'_eq_sup'_comp_alt [SemilatticeSup α] [SemilatticeSup γ] {s : Finset β}
     (H : s.Nonempty) (f : β → α)
     (g : α → γ) (g_sup : ∀ x y, g (x ⊔ y) = g x ⊔ g y) : g (s.sup' H f) = s.sup' H (g ∘ f) := by
-  refine' H.cons_induction _ _ <;> intros <;> simp [*]
+  refine H.cons_induction ?_ ?_ <;> intros <;> simp [*]
```
Comment (mseri) [inline BET/Birkhoff.lean:176]: This is because `refine'` will be deprecated soon

File: BET/Birkhoff.lean [hunk 2]
```diff
@@ -374,23 +374,38 @@ theorem diff_Monotone (x : α) : Monotone (fun n ↦ -(maxOfSums T φ x (n + 1)
   simp only [claim1, neg_sub, tsub_le_iff_right, sub_add_cancel, le_min_iff, min_le_iff, le_refl,
     true_or, true_and]
   by_cases hc : 0 ≤ maxOfSums T φ (T x) m
-  · left
-    exact hc
-  · right
-    exact maxOfSums_Monotone T φ (T x) hnm
+  · exact Or.inl hc
+  · exact Or.inr <| maxOfSums_Monotone T φ (T x) hnm
```
Comment (mseri) [inline BET/Birkhoff.lean]:
```suggestion
  -- the following is equivalent to
  -- left
  -- exact hc
  · exact Or.inl hc
  -- the following is equivalent to
  -- right
  -- exact exact maxOfSums_Monotone T φ (T x) hnm
  · exact Or.inr <| maxOfSums_Monotone T φ (T x) hnm
```

**Comment by mseri** [comment]
Thanks
